US07135466B2
N-(2-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenoxy}ethyl)-N,N-diethylamine
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenol (100 mg) was dissolved in dimethylformamide (2 ml) to prepare a solution. Sodium hydride (27 mg) was then added to the solution, and the mixture was stirred at room temperature for 10 min. 2-(Diethylamino)ethyl bromide hydrobromide (88 mg) was added to the solution, and the mixture was stirred at room temperature for 2 hr. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and was then dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin-layer chromatography using chloroform/methanol for development. Diethyl ether was added to the purification product, and the precipitated crystal was collected by filtration and was washed to give the title compound (30 mg, yield 23%).

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenol | 100 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)O | C16H14N2O4
reactant | Sodium hydride | 27 mg | [H-].[Na+]
reactant | 2-(Diethylamino)ethyl bromide hydrobromide | 88 mg | Br.C(C)N(CCBr)CC
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-(2-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenoxy}ethyl)-N,N-diethylamine | 30 mg, yield 23% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(OCCN(CC)CC)C=C1 | C22H27N3O4
